US05847122
To a mixture of (2S,3R)-3-(4-methylphenyl)-2,3-epoxypropionic acid methyl ester (1.92 g) and methanol (10 ml) is added dropwise a solution of 40% aqueous methylamine solution (2.37 g) in methanol (10 ml) under ice-cooling. The reaction mixture is stirred under ice-cooling for one hour, and concentrated under reduced pressure. To the residue is added ether, and the precipitated crystals are collected by filtration, washed, and dried at 50° C. to give (2S,3R)-3-(4-methylphenyl)-2,3-epoxy-N-methylpropionamide (1.75 g).

reactant | (2S,3R)-3-(4-methylphenyl)-2,3-epoxypropionic acid methyl ester | 1.92 g | COC([C@@H]1[C@H](O1)C1=CC=C(C=C1)C)=O | C11H12O3
reactant | methylamine | 2.37 g | CN | CH5N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | (2S,3R)-3-(4-methylphenyl)-2,3-epoxy-N-methylpropionamide | 1.75 g | CC1=CC=C(C=C1)[C@@H]1[C@@H](C(=O)NC)O1 | C11H13NO2
